US04002640
4.8 G. of 1-amino-2-nitro-4-(prop-2-yn-1-ylthio)benzene in 14 ml. concentrated hydrochloric acid is treated with a solution of 24 g. stannous chloride in 14 ml. concentrated hydrochloric acid at 20°-30° C. After about 30 minutes, the mixture is neutralized with a saturated solution of potassium bicarbonate and chloroform added. The mixture is filtered, the chloroform layer separated, dried and evaporated yielding 1,2-diamino-4-(prop-2-yn-1-ylthio)benzene.

reactant | 1-amino-2-nitro-4-(prop-2-yn-1-ylthio)benzene | NC1=C(C=C(C=C1)SCC#C)[N+](=O)[O-] | C9H8N2O2S
reactant | hydrochloric acid | Cl | ClH
reactant | potassium bicarbonate | C([O-])(O)=O.[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1,2-diamino-4-(prop-2-yn-1-ylthio)benzene | NC1=C(C=C(C=C1)SCC#C)N | C9H10N2S
